US04711890
1-{[2-(2-chlorophenyl)-quinolin-4-yl]-carbonyl}-2,6-dimethylpiperidine
2-(2-Chlorophenyl)-quinoline-4-carboxylic acid (5.7 g) and thionyl chloride (15 ml) are heated under reflux for 1 hour. The thionyl chloride is evaporated off, the residue is taken up in toluene (40 ml) and the toluene is also evaporated off. Toluene (50 ml) is then added to the residue obtained, followed by the dropwise introduction of 2,6-dimethylpiperidine (6.78 g), with stirring. The mixture is stirred for 1 hour at ambient temperature, the precipitate is filtered off and the filtrate is evaporated under reduced pressure. The residue is taken up in water (50 ml) and chloroform (50 ml). The organic phase is decanted and the aqueous phase is extracted with chloroform (50 ml). The organic phases are combined, dried over magnesium sulphate and evaporated under reduced pressure.

reactant | 2-(2-Chlorophenyl)-quinoline-4-carboxylic acid | 5.7 g | ClC1=C(C=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C16H10ClNO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-dimethylpiperidine | 6.78 g | CC1NC(CCC1)C | C7H15N
product | 1-{[2-(2-chlorophenyl)-quinolin-4-yl]-carbonyl}-2,6-dimethylpiperidine | ClC1=C(C=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)N1C(CCCC1C)C | C23H23ClN2O
